US05235091
5-Carboxypentyl-triphenylphosphonium bromide (20 g) and benzaldehyde (5.6 g) were suspended in isopropanol (100 ml). To the suspension was added potassium butoxide (10.8 g) in limited amounts at 25° C., then the reaction was allowed to proceed for 2 hours at 70° C. Isopropanol was distilled off under reduced pressure. To the residue was added water (100 ml) to make a solution, which was acidified with hydrochloric acid, followed by extraction with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure. The concentrate was subjected to a silica gel column chromatography to afford 7-phenyl-6-heptenoic acid (7.6 g) as a colorless oily product.

reactant | 5-Carboxypentyl-triphenylphosphonium bromide | 20 g | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzaldehyde | 5.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium butoxide | 10.8 g | [O-]CCCC.[K+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 7-phenyl-6-heptenoic acid | 7.6 g | C1(=CC=CC=C1)C=CCCCCC(=O)O | C13H16O2
